US08106070B2
Sodium periodate (40 mg, 0.19 mmol) was added to an ambient temperature solution of 4-(2,2-dimethylbutyl)-2-{1-hydroxy-1-methyl-2-[2′-(methylthio)biphenyl-4-yl]ethyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide (65 mg, 0.13 mmol) in ethanol/water (1:1) (5 mL). After stirring at ambient temperature until no further reaction (LCMS), the reaction mixture was quenched with saturated aqueous sodium thiosulfate and extracted with methylene chloride. Combined extracts were dried (magnesium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-30% acetone/methylene chloride afforded 4-(2,2-dimethylbutyl)-2-{1-hydroxy-1-methyl-2-[2′-(methylsulfinyl)biphenyl-4-yl]ethyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide.

reactant | Sodium periodate | 0.19 mmol, 40 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | 4-(2,2-dimethylbutyl)-2-{1-hydroxy-1-methyl-2-[2′-(methylthio)biphenyl-4-yl]ethyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide | 0.13 mmol, 65 mg | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)C(CC1=CC=C(C=C1)C1=C(C=CC=C1)SC)(C)O)(CC)C | C27H37N3O3S2
solvent | ethanol water | 5 mL | C(C)O.O
product | 4-(2,2-dimethylbutyl)-2-{1-hydroxy-1-methyl-2-[2′-(methylsulfinyl)biphenyl-4-yl]ethyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)C(CC1=CC=C(C=C1)C1=C(C=CC=C1)S(=O)C)(C)O)(CC)C | C27H37N3O4S2
